US07700595B2
[3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl][5-chloro-2-(trifluoromethyl)benzyl]amine
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine and 5-chloro-2-trifluoromethylbenzaldehyde according to the procedure of Step 5 Example 6. MS (ES) m/z 523.9.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)N | C20H14ClN3
reactant | 5-chloro-2-trifluoromethylbenzaldehyde | ClC=1C=CC(=C(C=O)C1)C(F)(F)F | C8H4ClF3O
product | [3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl][5-chloro-2-(trifluoromethyl)benzyl]amine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)NCC1=C(C=CC(=C1)Cl)C(F)(F)F | C28H18Cl2F3N3
